US08685980B2
To a solution of 6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester (200 mg, 0.49 mmol) and piperidin-4-ol (500 mg, 4.9 mmol) in 5 mL of CH2Cl2 is added dropwise a solution of iPrMgCl (2.45 mL, 4.9 mmol) at 0° C. and allow to warm up to room temperature overnight. After 18 h, added another 10 equivalents of i-PrMgCl and stirred for another 5 h. The reaction mixture is quenched with saturated NH4Cl and extracted with dichloromethane (3×100 mL). The combine organic ished with NaCl and dried over Na2SO4 and concentrated. Following SiO2 chromatography, eluting with 85/15% (CH2Cl2/MeOH) gave 7-cyclopentyl-2-{5-(4-hydroxy-piperidine-1-carbonyl)-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (120 mg, 51%). MS (ESI) m/z 478.3 (M+H)+

reactant | 6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-nicotinic acid methyl ester | 0.49 mmol, 200 mg | COC(C1=CN=C(C=C1)NC=1N=CC2=C(N1)N(C(=C2)C(N(C)C)=O)C2CCCC2)=O | C21H24N6O3
reactant | piperidin-4-ol | 4.9 mmol, 500 mg | N1CCC(CC1)O | C5H11NO
reactant | iPrMgCl | 4.9 mmol, 2.45 mL | C(C)(C)[Mg]Cl
reactant | i-PrMgCl | 10 equivalents | C(C)(C)[Mg]Cl
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 7-cyclopentyl-2-{5-(4-hydroxy-piperidine-1-carbonyl)-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 120 mg, 51% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CCC(CC2)O)N1C1CCCC1)C | C25H31N7O3
